US07247646B2
E. 2,2-Dimethyl-propionic acid 4-(7-methoxy-6-methyl-2-oxo-3-(4-trifluoromethyl-phenyl)-2H-chromen-4-ylmethyl)-phenyl ester
A mixture of 2,2-dimethyl-propionic acid 4-(6-bromo-7-methoxy-2-oxo-3-(4-trifluoromethyl-phenyl)-2H-chromen-4-ylmethyl)-phenyl ester (100 mg, 0.17 mmol), K2CO3 (70 mg, 0.51 mmol), trimethylboroxine (24 μL, 0.17 mmol) and Pd(Ph3P)4 (20 mg, 0.017 mmol) in anhydrous dioxane (2 mL) was stirred at reflux temperature for 2 h. After cooling to room temperature, the resultant suspension was filtered over Celite, and the solvent was removed in vacuo. The residue was recrystallized from CH2Cl2/hexane to afford the desired compound as a beige solid (72 mg, 82%) displaying. 1H NMR (300 MHz, CDCl3) δ 7.62 (d, J=8.0 Hz, 2H), 7.36 (d, J=8.0 Hz, 2H), 7.22 (d, J=0.9 Hz, 1H), 7.04 (d, J=8.8 Hz, 2H), 6.96 (d, J=8.8 Hz, 2H), 6.83 (s, 1H), 4.02 (s, 2H), 3.91 (s, 3H), 2.16 (s, 3H), 1.35 (s, 9H); MS (ESI) m/z 524.9 (M+H)+, HPLC tR 7.81 min.

reactant | 2,2-dimethyl-propionic acid 4-(6-bromo-7-methoxy-2-oxo-3-(4-trifluoromethyl-phenyl)-2H-chromen-4-ylmethyl)-phenyl ester | 0.17 mmol, 100 mg | BrC=1C=C2C(=C(C(OC2=CC1OC)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OC(C(C)(C)C)=O | C29H24BrF3O5
reactant | K2CO3 | 0.51 mmol, 70 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trimethylboroxine | 0.17 mmol, 24 μL | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-Dimethyl-propionic acid 4-(7-methoxy-6-methyl-2-oxo-3-(4-trifluoromethyl-phenyl)-2H-chromen-4-ylmethyl)-phenyl ester | 72 mg, 82% | COC1=C(C=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OC(C(C)(C)C)=O)C | C30H27F3O5
